2173-11-20 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ABGs: A/C, 100% Fi02: 7.30/47/240->7.41/37/147/
   -Attempted Aline, multiple times, did not get. difficulty with
   advancing wire with arrow kit. no long 20G angiocaths in unit.
   -1.5L NS to keep MAPs >65 all before 6pm
   -sputum culture 2+GPCs in pairs,clusters and chains. Added Vanco
   -started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-11-20**] 12:00 AM
   Levofloxacin - [**2173-11-20**] 02:00 AM
   Ceftriaxone - [**2173-11-20**] 03:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2173-11-19**] 09:59 PM
   Fentanyl - [**2173-11-19**] 09:59 PM
   Heparin Sodium (Prophylaxis) - [**2173-11-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-11-20**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 108 (103 - 113) bpm
   BP: 98/62(89) {81/57(64) - 111/75(99)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  5,304 mL
                                                                    796 mL
   PO:
             TF:
                                                                     65 mL
                                                                    134 mL
   IVF:
                                                                  2,389 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    470 mL
   Urine:
                                                                  1,020 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,284 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/37/147/22/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   GEN: intubated, sedated, no acute distress
   HEENT: sclera anicteric, MMM,
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: tachy, no murmur, radial pulses +2
   PULM: Lungs CTAB anteriorly, no wheezing
   ABD: Soft, NT, distended, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords
   NEURO: sedated
   Labs / Radiology
   205 K/uL
   12.5 g/dL
   104 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   10 mg/dL
   105 mEq/L
   137 mEq/L
   35.8 %
   10.0 K/uL
        [image002.jpg]
                            [**2173-11-19**]  02:51 PM
                            [**2173-11-19**]  09:27 PM
                            [**2173-11-20**]  03:00 AM
   WBC
   10.0
   Hct
   35.8
   Plt
   205
   Cr
   0.9
   0.8
   TCO2
   24
   Glucose
   128
   104
   Other labs: PT / PTT / INR:14.8/39.0/1.3, Lactic Acid:1.5 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Assesment: This is a 79 year-old male with a history of dementia who
   presents with acute respiratory failure requiring intubation.
   .
   Plan:
   # Respiratory failure: Most likely [**12-26**] aspiration pneumonia as patient
   was afebrile, with 10 bands on differential and sputum culture with 2+
   GPCs in pairs, chains and clusters and known aspiration risk.  Patient
   has weaned on vent well overnight, but his CXR looks worse and his
   sputum remains thick requiring suctioning so he will likely not be
   extubatable today
   - continue ceftriaxone, levofloxacin and vancomycin (day 2)
   - cont mechanical ventilation, daily RSBI and wake up, wean fi02 as
   tolerated, PS as tolerated today, repeat ABG on PS.
   - continue sedation with fentanyl and versed
   -f/u urine culture, blood culture and final sputum culture
   - VAP prophylaxis
   - combivent inhalers prn
   .
   # Hypotension : Hypotension persisted after sedating medications wore
   off, but responded to 1.5 L NS and patient now normotensive fo >12
   hours.
   - abx as above
   - NS bolus prn for MAP<65 or UOP<30
   .
   # h/o SBT : On admission there was concern for partial SBO given NGT
   drainage and distended abdomen. Pt has been having stools at home, no
   history of vomiting. OG tube now with minimal to no drainage.  Tube
   feeds started last night and patient tolerating well so no signs of SBP
   - continue tube feeds with q4h residual checks
   -monitor abdominal exam
   .
   # Hyperlipidemia: holding zocor while NPO
   .
   # FEN: fluids prn, replete lytes prn, tube feeds
   .
   # Access: peripheral IV
   .
   # PPx: heparin SQ, pneumoboots, IV PPI, VAP prophylaxis
   .
   # Code: Full code
   .
   # Dispo:  ICU
   .
   # Comm:
   - son [**Name (NI) 3494**] is healthcare provider
   [**Name Initial (PRE) **] son [**Name (NI) **] is legal guardian [**Telephone/Fax (1) 3495**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-11-19**] 05:32 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-11-19**] 05:57 AM
   20 Gauge - [**2173-11-19**] 05:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 70 yo M with alzheimers dementia
   (noncommunicative at baseline) presents with respiratory failure in
   setting of pna.  Weaned overnight to PS 5/5.  MAPS responded to IVF
   boluses.
   Exam notable for Tm 100.1--> AF  BP 100/70 HR 100-110    RSBI 32
   4.2L +
   Awake M, intubated, NAD, unable to follow commands, non-English
   speaking, distant BS, prolonged exp phase, no wheeze, RR, Abd NT,
   mildly distended, warm ext
   Labs notable for WBC 10 (5.1), diff pending, HCT 35.8 (49.1), K+ 4.2 ,
   Cr  0.8 , lNR 1.3
   CXR
appears wet, multifocal pna, sm L> R effusion (little difference
   c/t prior CXR from [**2171**]) small lungvolumes
   MICRO--cx ngtd (bl/urine), urine leg ag neg
   79 yo M with dementia admitted with
     * Sepsis--improving
     * resp failure
     * probable asp pna/cap pna
     * HOTN--resolved
     * Mild abd distention
   Respiratory failure most likely [**12-26**] aspiration event, unlikely cardiac
   component though now appears wet on imaging after aggressive fluid
   resus.  Agree with plan to continue vent support.  Although RSBI < 100,
   pt with thick secretions and frequent sx needs.  Will optimize from
   resp and cardiac standpoint prior to considering extubation
 continuing
   sx
ing, nebs, chest PT, and will probably need gentle diuresis as well
   once able to tolerate.  Continue empiric antibx (vanco, levo, ctx),
   following cx data
may taper pending final cx report.  Follow abg. HOTN
   felt [**12-26**] sedation and sepsis/infection. MAPS have been fluid responsive
   (goal > 65) and has not required pressor support. Making good urine
   with stable bun/cr. Would recheck lactate.  As WBC increased from 5 to
   10
 recheck differential noting bandemia on admit.  Tolerating TFs
   without residuals with benign abd exam.  Follow serial exam and lactate
   as above.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2173-11-20**] 02:40 PM ------

2173-11-21 07:17:00 Physician Resident Progress Note
Chief Complaint: 79 yo M with dementia p/w aspiration PNA, intubated
   for respiratory failure.
   24 Hour Events:
   - CBC with elevated leukocytosis, diff shows 9% bands (down from 10%)
   - unable to draw ABG (bad PVD)
   - on PS, not being extubated tonight.
   - sputum cx with sparse OP growth
   - MAPS remained > 85, no IVFs given
   - got PICC o/n (may need long term abx + for sedative meds)
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-11-20**] 11:00 PM
   Levofloxacin - [**2173-11-21**] 02:00 AM
   Ceftriaxone - [**2173-11-21**] 03:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-11-20**] 07:58 AM
   Midazolam (Versed) - [**2173-11-20**] 09:45 PM
   Fentanyl - [**2173-11-20**] 09:45 PM
   Heparin Sodium (Prophylaxis) - [**2173-11-21**] 12:00 AM
   Other medications:
   Bisacodyl
   Colace
   Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-11-21**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 92 (92 - 114) bpm
   BP: 122/83(88) {89/64(69) - 129/101(104)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,542 mL
                                                                    877 mL
   PO:
             TF:
                                                                    709 mL
                                                                    396 mL
   IVF:
                                                                  1,694 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    890 mL
   Urine:
                                                                  1,675 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    867 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (433 - 1,327) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   207 K/uL
   11.8 g/dL
   130 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   10 mg/dL
   103 mEq/L
   137 mEq/L
   33.7 %
   10.7 K/uL
        [image002.jpg]
                            [**2173-11-19**]  02:51 PM
                            [**2173-11-19**]  09:27 PM
                            [**2173-11-20**]  03:00 AM
                            [**2173-11-21**]  04:02 AM
   WBC
   10.0
   10.7
   Hct
   35.8
   33.7
   Plt
   205
   207
   Cr
   0.9
   0.8
   0.7
   TCO2
   24
   Glucose
   128
   104
   130
   Other labs: PT / PTT / INR:13.5/36.0/1.2, Differential-Neuts:70.0 %,
   Band:9.0 %, Lymph:12.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.5
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Assesment: This is a 79 year-old male with a history of dementia who
   presents with acute respiratory failure requiring intubation.
   Plan:
   # Respiratory failure: Most likely [**12-26**] aspiration pneumonia as patient
   was afebrile, with 10 bands on differential and sputum culture with
   known aspiration risk.  No temps, bancemia resolving.  Sputum with OP
   [**Last Name (LF) **], [**First Name3 (LF) **] not be useful in determining infectious source as may be
   contaminant. Patient doing well on PS with appopriate RISBI, unable to
   obtain ABG due to PVD. Clinical exam improved today with less wheezing.
   No other sources of infection. growth on urine cx
s, blood cultures
   NGTD. Looks  volume overloaded on CXR.
   - continue ceftriaxone, levofloxacin and vancomycin (day 3)
   - cont mechanical ventilation, daily RSBI and wake up, wean fi02 as
   tolerated, PS.
   - check VBG => SBT today with possible extubation if patient does not
   appear hypercarbic.
   - f/u final sputum culture and repeat sputum prior to extubation.
   - VAP prophylaxis
   - combivent inhalers prn
   - diurese as needed after extubation.
   - check diff tomorrow AM to ensure resolution of bandemia.
   # Hypotension : Patient met criteria for sepsis in the ED; hypotension
   was responsive to fluid boluses. No IVFs required x24 hrs.
   # h/o SBT : distended abdomen => c/f SBO (no BMs x2 days). Tolerated
   TFs well, with bowel sounds.
   - continue tube feeds with q4h residual checks
   -monitor abdominal exam
   - add senna to  bowel regimen
   .
   # Hyperlipidemia: holding zocor while NPO
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-11-21**] 12:27 AM 55 mL/hour
   Glycemic Control:  Comments: None
   Lines:
   18 Gauge - [**2173-11-19**] 05:57 AM
   PICC Line - [**2173-11-20**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU
   ------ Protected Section ------
   Anemia: hct down to 33 from 47 as of [**2173-9-25**]. Received IVFs while
   hospitalized, so may be dilutional. However, must explore other
   etiologies (GIB, Fe, B12, folate deficiency, etc).
   - guiac stools
   - check Fe studies, B12, folate
   - check hct [**Hospital1 **]
   - PICC for access
   - active T&S, Transfuse for Hct < 30
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 568**], MD
   on:[**2173-11-21**] 10:29 ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 70 yo M with alzheimers dementia
   (noncommunicative at baseline) presents with sepsis/respiratory failure
   in setting of asp pna.
   Remained on PS overnight.  Sats stable.  Picc line placed.  Decreased
   sx needs today
   Exam notable for Tm 100--> AF  BP 122/83  HR 92  RR 21 98% PS 5/5
   (40%)  RSBI 44, 29
   Awake M, intubated, NAD, unable to follow commands, non-English
   speaking, distant BS, prolonged exp phase, no wheeze, RR, NABS mildly
   distended, warm ext
   Labs notable for WBC 10.7 9%B yesterday, HCT 33.7 plt 207, K+ 3.7, Cr
   0.7 , lNR 1.2, lactate 1.5
   CXR
  stable--sm volumes, appears wet with small volumes, multifocal
   pna, sm effusions (little difference c/t prior CXR from [**2171**])
   MICRO--sputum--orophar growth, cx ngtd (bl/urine), urine leg ag neg
   79 yo M with dementia admitted with
     * Sepsis (improved)
     * resp failure
     * probable asp pna/cap pna
     * HOTN (resolved)
     * Mild abd distention
     * dementia (mental status at baseline per family)
     * anemia
   Respiratory failure most likely [**12-26**] aspiration.  Agree with plan
   to move toward extubation today, as RSBI < 100, and decreased sx
   requirements, improved secretions. Urine, blood and sputum cx with
   ngtd.  Continue current antibx regimen X 48 hrs and then consider
   tailoring further.  F/u final cx reads and recheck sputum from ET sx.
   Check VBG to assess ph  as have been unable to obtain aline or
   abgs. Sats stable on minimal FIO2.  MAPS remain > 65 and has not
   required pressor support. Making good urine with stable bun/cr.
   Tolerating TFs without residuals. Sedation and TFs on hold for
   extubation. Hct stable from yesterday with no obvious bleeding but
   baseline runs in mid 40 range.  Was likely dry/hemoconcentrated on
   admit but seems out of proportion  to amt of fluids received.  Will
   heme check stools and send anemia w/u and continue to follow.  Continue
   bowel regimen.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2173-11-21**] 13:54 ------

2173-11-22 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2173-11-21**] 10:16 AM
 INVASIVE VENTILATION - STOP [**2173-11-21**] 11:01 AM
   -Successfully extubated on [**11-21**] AM rounds and doing well on face mask
   all day
   -MRSA swab negative
   -Plan to guaiac stools but none yet
   -Speech and swallow consult pending for this AM
   -Iron studies consistent with anemia of chronic disease
   -PPi discontinued now that patient extubated
   -[**11-21**] sputum growing GNR, [**11-19**] sputum growing GPC
   -[**11-21**] PM Hct stable at 34
   Patient unable to provide history: Non-verbal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-11-21**] 08:30 PM
   Levofloxacin - [**2173-11-22**] 01:40 AM
   Ceftriaxone - [**2173-11-22**] 03:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-11-21**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-11-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 89 (88 - 102) bpm
   BP: 169/87(100) {107/73(82) - 169/113(119)} mmHg
   RR: 19 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,634 mL
                                                                    277 mL
   PO:
             TF:
                                                                    424 mL
   IVF:
                                                                  1,050 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    770 mL
   Urine:
                                                                  2,900 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,266 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (411 - 411) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   ), Good air movement bilateraly.
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, Patient
   tracks movement well with his eyes.
   Labs / Radiology
   268 K/uL
   13.2 g/dL
   104 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   7 mg/dL
   105 mEq/L
   137 mEq/L
   36.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2173-11-19**]  02:51 PM
                            [**2173-11-19**]  09:27 PM
                            [**2173-11-20**]  03:00 AM
                            [**2173-11-21**]  04:02 AM
                            [**2173-11-21**]  02:42 PM
                            [**2173-11-22**]  03:34 AM
   WBC
   10.0
   10.7
   10.6
   8.7
   Hct
   35.8
   33.7
   34.9
   36.8
   Plt
   [**Telephone/Fax (3) 3604**]68
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   24
   Glucose
   128
   104
   130
   104
   Other labs: PT / PTT / INR:13.5/36.0/1.2, Differential-Neuts:70.0 %,
   Band:9.0 %, Lymph:12.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.5
   mmol/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   79 year-old male with a history of dementia who presents with acute
   respiratory failure requiring intubation.
   # Respiratory failure:
   Most likely [**12-26**] aspiration pneumonia as patient was afebrile, with 10
   bands on differential and sputum cuture with known aspiration risk.  No
   temps, bancemia resolving.  Sputum with OP [**Last Name (LF) **], [**First Name3 (LF) **] not be useful in
   determining infectious source as may be contaminant. Patient doing well
   on PS with appopriae RISBI, unable to obtain ABG due to PVD. Clinical
   exam improved today with less wheezing. No other sources of infection.
   growth on urine cx
s, blood cultures NGTD. Looks  volume overloaded on
   CXR.
   - continue ceftriaxone, levofloxacin and vancomycin (day 3)
   - cont mechanical ventilation, daily RSBI and wake up, wean fi02 as
   tolerated, PS.
   - check VBG => SBT today with possible extubation if patient does not
   appear hypercarbic.
   - f/u final sputum culture and repeat sputum prior to extubation.
   - VAP prophylaxis
   - combivent inhalers prn
   - diurese as needed after extubation.
   - check diff tomorrow AM to ensure resolution of bandemia.
   # Hypotension :
   Patient met criteria for sepsis in the ED; hypotension was responsive
   to fluid boluses. No IVFs required x24 hrs.
   # h/o SBT :
   Distended abdomen => c/f SBO (no BMs x2 days). Tolerated TFs well, with
   bowel sounds.
   - continue tube feeds with q4h residual checks
   -monitor abdominal exam
   - add senna to  bowel regimen
   # Hyperlipidemia:
   Holding zocor while NPO
   # Anemia:
   HCT down to 33 from 47 as of [**2173-9-25**]. Received IVFs while
   hospitalized, so may be dilutional. However, must explore other
   etiologies (GIB, Fe, B12, folate deficiency, etc).
   - guiac stools
   - check Fe studies, B12, folate
   - check hct [**Hospital1 **]
   - PICC for access
   - active T&S, Transfuse for Hct < 30
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-11-20**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: